### PR TITLE
feat(Data/List): add count lemmas for duplicate detection

### PR DESCRIPTION
**Pull request by mkaratarakis**
## Summary

Add general list count lemmas used in the Perron–Frobenius quiver-path development: Relocated from the PF-specific file per review feedback. Proofs use upstream `List.Duplicate` API and `grind` where appropriate (per @chenson2018).

Part of the Perron–Frobenius formalization (with @or4nge19).

cc @or4nge19 for review

### CODE REVIEW

**Comment by chenson2018** [comment]
I had left https://github.com/leanprover-community/mathlib4/pull/39912#pullrequestreview-4374512535 on the previous PR that still applies here.

**Comment by mkaratarakis** [comment]
Addressed @chenson2018's review from #39912/#39940:

- Removed `exists_mem_split` entirely (upstream `List.append_of_mem`).
- Dropped `get_eq_get_dropLast` from Basic; the Count proof now uses `grind`.
- Simplified `mem_tail_of_count_ge_two` with `grind [= count_cons_self]`.
- Simplified `exists_pos_get_of_dropLast_count_ge_two` to `match l with | [] | [_] | _ :: _ :: _ => grind`.

#39940 is closed as no Basic.lean changes remain.

File: Mathlib/Data/List/Count.lean [hunk 1]
```diff
@@ -62,4 +62,22 @@ theorem count_map_of_injective [BEq β] [LawfulBEq β] (l : List α) (f : α →
   unfold Function.comp
   simp only [hf.beq_eq]
 
+/-- If `x` occurs at least twice in `l`, then `x` occurs in `l.tail`. -/
+theorem mem_tail_of_two_le_count {x : α} {l : List α} (h : 2 ≤ l.count x) : x ∈ l.tail := by
```
Comment (eric-wieser) [inline Mathlib/Data/List/Count.lean:66]: Could you add the `eraseIdx` version too?
